US04254135
Trans-4-chloro-N-(1-cyclohexyl-4-hydroxy-3-pyrrolidinyl)-N-methylbenzamide Hydrochloride.
This compound was made according to the procedure of Example 11, using 10 g trans-1-cyclohexyl-4-methylamino-3-pyrrolidinol, 10 g of potassium carbonate and 8.9 g of p-chlorobenzoyl chloride in comparable quantities of solvent. The melting point of the salt was 215.0°-218° C.

reactant | trans-1-cyclohexyl-4-methylamino-3-pyrrolidinol | 10 g | C1(CCCCC1)N1C[C@H]([C@@H](C1)NC)O | C11H22N2O
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
reactant | p-chlorobenzoyl chloride | 8.9 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
product | Trans-4-chloro-N-(1-cyclohexyl-4-hydroxy-3-pyrrolidinyl)-N-methylbenzamide Hydrochloride | Cl.ClC1=CC=C(C(=O)N(C)[C@@H]2CN(C[C@H]2O)C2CCCCC2)C=C1 | InChI=1S/C18H25ClN2O2.ClH/c1-20(18(23)13-7-9-14(19)10-8-13)16-11-21(12-17(16)22)15-5-3-2-4-6-15;/h7-10,15-17,22H,2-6,11-12H2,1H3;1H/t16-,17-;/m1./s1
